US07705023B2
(a) 4-Bromo-1-cyclopentoxy-2-nitrobenzene
To a mixture of 4-bromo-2-nitrophenol (1.0 g, 4.6 mmol), cyclopentanol (600 mg, 7.0 mmol) and Ph3P (1.47 g, 5.6 mmol) in THF (50 mL) at 0° C. was portion-wise added diisopropylazodicarboxylate (1.52 g, 7.5 mmol) in THF (10 mL) and the resulting mixture was left to stir overnight at ambient temperature. Solvent removal and purification by chromatography on silica gel afforded the sub-title compound (1.24 g, 94%).

reactant | 4-bromo-2-nitrophenol | 4.6 mmol, 1.0 g | BrC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4BrNO3
reactant | cyclopentanol | 7.0 mmol, 600 mg | C1(CCCC1)O | C5H10O
reactant | Ph3P | 5.6 mmol, 1.47 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diisopropylazodicarboxylate | 7.5 mmol, 1.52 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-Bromo-1-cyclopentoxy-2-nitrobenzene | 1.24 g, 94% | BrC1=CC(=C(C=C1)OC1CCCC1)[N+](=O)[O-] | C11H12BrNO3
